US09428500B2
4-Ethynyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole R(608)
The precursor used in Example 43, 9-benzenesulfonyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-4-((triisopropylsilyl)ethynyl)-9H-pyrido[2,3-b]indole, which was obtained in a similar fashion as the procedure of Example 37, was deprotected from both the benzenesufonyl and triisopropylsilyl group using the following procedure. Under an inert atmosphere, to a solution of 9-benzenesulfonyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-4-((triisopropylsilyl)ethynyl)-9H-pyrido[2,3-b]indole (73.8 mg, 0.111 mmol) in anhydrous THF (2.8 mL, 0.05M), a solution of TBAF (1M in THF, 3 eq, 330 μL) was added dropwise. The reaction was stirred at 70° C. for 2.5 h. After cooling to R.T, the mixture was then quenched cautiously with water and brine. The aqueous layer was extracted with DCM (3×40 mL) The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was first purified by silica gel flash chromatography (DCM/MeOH 95:5 to 94:6) to afford the desired product contaminated by TBAF. A pale yellow solid was obtained in 41% yield after a double trituration of the previous mixture in MeOH and then in DCM followed by filtration. 1H NMR (300 MHz, DMSO) δ 12.07 (s, 1H), 8.59 (d, J=1.1 Hz, 1H), 8.42 (d, J=5.0 Hz, 1H), 7.76 (dd, J=8.5, 1.7 Hz, 1H), 7.59 (d, J=8.7 Hz, 1H), 7.55 (d, J=8.8 Hz, 2H), 7.28 (d, J=5.0 Hz, 1H), 7.06 (d, J=8.8 Hz, 2H), 5.09 (s, 1H), 3.25-3.09 (m, 8H), 2.24 (s, 3H); 13C NMR (101 MHz, DMSO) δ 152.29 (C), 149.93 (C), 145.94 (CH), 138.04 (C), 132.39 (C), 131.36 (C), 127.13 (CH), 126.07 (CH), 122.20 (C), 120.33 (C), 118.66 (CH), 117.79 (CH), 115.81 (CH), 114.71 (C), 111.80 (CH), 89.04 (C), 80.61 (CH), 54.55 (2CH2), 47.96 (2CH2), 45.75 (NCH3); HRMS calcd for C24H23N4 [M+H]+ 367.1917 found 367.1914.

reactant | 9-benzenesulfonyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-4-((triisopropylsilyl)ethynyl)-9H-pyrido[2,3-b]indole | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C)C(=CC=N2)C#C[Si](C(C)C)(C(C)C)C(C)C | C39H46N4O2SSi
reactant | 9-benzenesulfonyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-4-((triisopropylsilyl)ethynyl)-9H-pyrido[2,3-b]indole | 0.111 mmol, 73.8 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C)C(=CC=N2)C#C[Si](C(C)C)(C(C)C)C(C)C | C39H46N4O2SSi
reactant | TBAF | 1M, 330 μL, 3 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.05M, 2.8 mL | C1CCOC1 | C4H8O
product | 4-Ethynyl-6-(4-(4-methylpiperazin-1-yl)phenyl)-9H-pyrido[2,3-b]indole | 41% yield | C(#C)C1=CC=NC=2NC3=CC=C(C=C3C21)C2=CC=C(C=C2)N2CCN(CC2)C | C24H22N4
